US06521643B1
To a suspension of 3-amino-1-(4-methylpyridin-2-yl)pyrrolidine (177 mg) and N,N′-bis(tert-butoxycarbonyl)thiourea (331 mg) and diisopropylethylamine (0.4 ml) in dichloromethane (10 ml) was added 1-methyl-2-chloropyridinium iodide (332 mg), and the mixture was stirred for 16 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, n-hexane:ethyl acetate=4:1) and crystallized from diisopropyl ether to give N,N′-bis(tert-butoxycarbonyl)-N″-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine (290 mg).

reactant | 3-amino-1-(4-methylpyridin-2-yl)pyrrolidine | 177 mg | NC1CN(CC1)C1=NC=CC(=C1)C | C10H15N3
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 331 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethylamine | 0.4 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 332 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(1-(4-methylpyridin-2-yl)pyrrolidin-3-yl)guanidine | 290 mg | C(C)(C)(C)OC(=O)NC(=NC1CN(CC1)C1=NC=CC(=C1)C)NC(=O)OC(C)(C)C | C21H33N5O4
